US07351825B2
a) (1S,2R)-1-Amino-2-phenylcyclopropanecarboxylic acid
To commercially available (1R,2S)-1-tert-butoxycarbonylamino-2-phenylcyclopropanecarboxylic acid (130 mg, 0.45 mmol) was added 4N hydrochloric acid—1,4-dioxane solution (2.0 mL, 16 v/w) and the mixture was stirred for 1 hr at room temperature. Diethyl ether (1.0 mL) was added thereto and the mixture was stirred for 5 min, after which the resulting crystals were collected by filtration. The crystals were washed with diethyl ether (1.0 mL) and dried under reduced pressure to give the title compound (81 mg, white powder, yield 84%).

reactant | (1R,2S)-1-tert-butoxycarbonylamino-2-phenylcyclopropanecarboxylic acid | 0.45 mmol, 130 mg | C(C)(C)(C)OC(=O)N[C@]1([C@@H](C1)C1=CC=CC=C1)C(=O)O | C15H19NO4
reactant | hydrochloric acid 1,4-dioxane | 4N, 2.0 mL | Cl.O1CCOCC1
solvent | Diethyl ether | 1.0 mL | C(C)OCC | C4H10O
product | (1S,2R)-1-Amino-2-phenylcyclopropanecarboxylic acid | 81 mg, yield 84% | N[C@@]1([C@H](C1)C1=CC=CC=C1)C(=O)O | C10H11NO2
